Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
aspirin
 
Attending: ___
 
Chief Complaint:
left sided weakness, dysarthria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is an ___ year old woman with hypertension and osteoporosis
who was brought in by her family for worsening dysarthria,
left-sided weakness/heaviness, left facial droop over past ~16
hrs. History obtained by patient and as per supplementation by
family at bedside.

Patient notes that when she woke up on ___ AM, her left leg
felt slightly numb/heavy with tingling. She didn't think much of
it and was able to shower without difficulty but noticed that 
she
had to lift her foot a little higher to take a step. Her 
symptoms
resolved and she went to Church. She enjoyed the sermon with her
daughters, who did not notice any deficits in her speech or
facial asymmetry. She then returned home with one of her
daughters and they were enjoying each other's company. Around
___, her daughter noticed that the left side of her face 
was
slightly drooping. She was slightly dysarthric at this time. Her
symptoms worsened a little at 5:30PM but she was able to walk
around as per usual and as such the decision was made to
cautiously observe. The patient slept through the night without
difficulty. On the morning of presentation, she woke up and
noticed that her speech was significantly altered and that her
left leg felt heavier. She called her daughter who drove her 
into
___ (patient refused to have EMS called). Her symptoms of
dysarthria slightly improved within 20 minutes, by the time of
presentation to the ED. 
 

 
Past Medical History:
HTN 
Osteoperosis

 
Social History:
mRs 1. Lives with one of her daughters. Has 4 daughters, 2 sons.
Was former ___ for ___. Never suffered 
a
machine-related incident. Former smoker, quit ___ years ago.
Occasional alcohol on special occasions. No drug use.

Social History  (Last Verified - None on file):
Tobacco use:        Former smoker                               
Tobacco Use         Footnote: stopped ___ years ago.             
Comments:                                                       

- Modified ___ Scale:
[x] 0: No symptoms
[] 1: No significant disability - able to carry out all usual
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk
unassisted
[] 4: Moderately severe disability: unable to attend to own
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and
attention, bedridden, incontinent
[] 6: Dead

She is very active and uses ladders to fix things around the
house. 

 
Family History:
? history of strokes, heart attacks in her parents
otherwise noncontributory

 
Physical Exam:
Admission exam:
Vitals: T97, HR80, RR18, BP190/90, 100RA.
General: Awake, cooperative, NAD.
HEENT: lip with laceration a little swollen on right side, ?
biting it from trying to talk on that side given left NLFF? 
Neck: Supple
Pulmonary: Normal work of breathing.
Cardiac: bradycardia HR 50-60s, well-perfused
Abdomen: Soft, non-distended.
Extremities: trace pedal edema bilaterally
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves: Pupils s/p ___. VFF to finger counting. EOMI
without nystagmus. Facial sensation intact. Left NLFF with
delayed activation. Dysarthria only to labial sounds. Tongue
midline. Strength full with tongue-in-cheek.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO] [___]
L    4+   5    4+   5    5    4+  4    5    4   4    4    4
R    *    5    5    4+   5    4+  5    5    5   5    5    5
*pain limited, right shoulder pain at baseline

-Sensory: Patchy sensory loss to pinprick and to temperature
along left without clear dermatomal distribution. Does not
extinguish to DSS. 
-Reflexes:
  [Bic] [Tri] [___] [Pat] 
L   2     2      2      3     
R   2     2      2      3      
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred in setting of concern for acute-to-subacute
perfusion changes with unknown positional component

========================================
Discharge exam:
General: Awake, cooperative, NAD.
HEENT: lip with laceration a little swollen on right side, ?
biting it from trying to talk on that side given left NLFF? 
Neck: Supple
Pulmonary: Normal work of breathing.
Cardiac: bradycardia HR 50-60s, well-perfused
Abdomen: Soft, non-distended.
Extremities: trace pedal edema bilaterally
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves: Pupils s/p ___. VFF to finger counting. EOMI
without nystagmus. Facial sensation intact. Left NLFF with
delayed activation. Dysarthria only to labial sounds. Tongue
midline. Strength full with tongue-in-cheek.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO] [___]
L    4+   5    4+   5    5    4+  4    5    4   4    4    4
R    *    5    5    4+   5    4+  5    5    5   5    5    5
*pain limited, right shoulder pain at baseline

-Sensory: Patchy sensory loss to pinprick and to temperature
along left without clear dermatomal distribution. Does not
extinguish to DSS. 

-Reflexes: Deferred

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred in setting of concern for acute-to-subacute
perfusion changes with unknown positional component

 
Pertinent Results:
CTA head and neck prelim:
CT HEAD WITHOUT CONTRAST: 
There is no evidence of no evidence of acute large territory 
infarction, 
hemorrhage, edema, or mass. The ventricles and sulci are normal 
in size and 
configuration. 
  
No fracture is identified. Mucosal thickening is visualized in 
the left 
sphenoid sinus, otherwise the paranasal sinuses, middle ear 
cavities, and 
mastoid air cells are clear. The bilateral orbits are 
unremarkable.. 
  
CTA HEAD AND NECK: 
The vessels of the circle of ___ and their principal 
intracranial branches 
appear normal without stenosis, occlusion, or aneurysm 
formation. The dural 
venous sinuses are patent. 
The carotid and vertebral arteries and their major branches 
appear normal with 
no evidence of stenosis or occlusion. There is no evidence of 
internal carotid 
stenosis by NASCET criteria. 
  
CT PERFUSION: No CBF < 30% is appreciated to correspond to Tmax 
> 6.0 second 
volume of 7 mL in the right frontotemporal region. 
  
The imaged portion of lung apices demonstrate scarring 
bilaterally. The 
thyroid is multinodular with the largest nodule measuring 5 mm 
in the right 
lobe. 
  
MRI brain:
IMPRESSION:  
  
Acute/subacute infarct within the posterior right putamen 
extending superiorly 
to the right corona radiata.  No evidence of hemorrhage. 
  

 
Brief Hospital Course:
___ year old woman with hypertension who was admitted
with ~ 24 hrs of stuttering symptoms including left sided
paresthesias, weakness, and left NLFF with dysarthric speech
concerning for right-sided infarct in distribution of MCA or
right lacune. CTA head and neck without LVO. 
MRI showed acute/subacute infarct within the posterior right
putamen extending superiorly to the right corona radiata. No
evidence of hemorrhage. 
Etiology likely small vessel disease in setting of HTN and HLD.
Risk factors:A1c 5.2, LDL 127. She was strated on ASA 81mg daily 
and atorvastatin 80mg qhs. Home amlodipine was increased from 
5mg daily to 10mg daily. ___ recommended home ___. 

Transitional issues:
#BP goal normotension
#consider Thyroid US for thyroid nodules seen on preliminary CTA 
neck
#TSH was elevated to 6.5. Please work up further as an outpt. 

======================================
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL =127 ) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - () No [reason () 
non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? () Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 5 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*5 
3.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
4.  Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES Q8H  
5.  Multivitamins 1 TAB PO DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
 ___ were hospitalized due to symptoms of left weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  
 Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 # hypertension 
 # Hyperlipidemia

 We are changing your medications as follows:  
 -START Aspirin 81mg daily
 -START atorvastatin 80mg every evening 
 -increased amlodipine from 5mg daily to 10mg daily 
 
 Please take your other medications as prescribed.  
 Please follow up with Neurology and your primary care physician 
as listed below.  
 If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
___  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 Sincerely,  
 Your ___ Neurology Team  
 
Followup Instructions:
___